US06255544B1
Preparation of 1,1,1,3,3,3-Hexachloropropane
A 400 mL Hastelloy™ C nickel alloy shaker tube was charged with anhydrous cuprous chloride (1.39 g, 0.014 mole), triethylamine hydrochloride (1.93 g, 0.014 mole), adiponitrile (52.0 g, 0.481 mole), carbon tetrachloride (151.0 g, 0.982 mole), and vinylidene chloride (47.5 g, 0.490 mole). The tube was sealed, cooled in a dry ice bath, evacuated, and purged with nitrogen several times. The tube was placed in a heating jacket and agitation begun. The tube was heated to 120° C. over the course of 1.3 hours and then held at 119-122° C. for one hour; during this time the pressure rose to a maximum of 83 psig (674 kPa) and then dropped to 41 psig (384 kPa) at the end of the heating period. The tube was then cooled to ambient temperature.

reactant | triethylamine hydrochloride | 0.014 mole, 1.93 g | Cl.C(C)N(CC)CC
reactant | adiponitrile | 0.481 mole, 52.0 g | C(CCCCC#N)#N | C6H8N2
reactant | carbon tetrachloride | 0.982 mole, 151.0 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | vinylidene chloride | 0.490 mole, 47.5 g | C(=C)(Cl)Cl | C2H2Cl2
catalyst | nickel | [Ni] | Ni
product | 1,1,1,3,3,3-Hexachloropropane | ClC(CC(Cl)(Cl)Cl)(Cl)Cl | C3H2Cl6
